US04563310
To a solution of methyl P-methyl-2-cyano-5-(2-chloro-4-trifluoromethylphenoxy)-phenylphosphinate (0.46 g) in 10 ml of methylene chloride is added trimethylsilyl bromide (0.75 ml) dropwise. The mixture is stirred for 2 hours, after which methanol is added. The reaction is stripped and evaporated under vacuum to give P-methyl-2-cyano-5-(2-chloro-4-trifluoromethyl-phenoxy)phenylphosphinic acid, m/s 375 (M+).

reactant | methyl P-methyl-2-cyano-5-(2-chloro-4-trifluoromethylphenoxy)-phenylphosphinate | 0.46 g | CP(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C#N | C16H12ClF3NO3P
reactant | trimethylsilyl bromide | 0.75 ml | C[Si](C)(C)Br | C3H9BrSi
reactant | methanol | CO | CH4O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | P-methyl-2-cyano-5-(2-chloro-4-trifluoromethyl-phenoxy)phenylphosphinic acid | CP(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)C#N | C15H10ClF3NO3P
